US04302438
(a) Theophylline-8-butyric acid methylester
10 g of theophylline-8-butyric acid are suspended in 50 ml of methanol. For one hour HCl-gas is fed into the suspension. While further feeding HCl-gas into the suspension, heating for one hour under reflux is effected. The feed of HCl-gas is interrupted, and 13.5 ml of 2,2-dimethoxypropane are added to the suspension. Afterwards, for a further 20 minutes HCl-gas is fed into the suspension. After standing over night at room temperature, the suspension is brought to dryness in vacuo. The residue is dissolved in 300 ml of methylenechloride. After having extracted the methylenechloride phase twice with 100 ml of saturated aqueous soda solution and twice with 100 ml of water, it is dried over annealed sodium sulfate and brought to dryness in vacuo. The residue is recrystallized from methanol. In this way 5.15 g (48.4 percent of the theoretically-calculated amount) of the title compound of melting point 200° to 204° C. are obtained.

reactant | theophylline-8-butyric acid | 10 g | N1(C)C(=O)N(C)C=2N=C(NC2C1=O)CCCC(=O)O | C11H14N4O4
reactant | HCl | Cl | ClH
reactant | 2,2-dimethoxypropane | 13.5 ml | COC(C)(C)OC | C5H12O2
solvent | methanol | 50 ml | CO | CH4O
solvent | methylenechloride | 300 ml | C(Cl)Cl | CH2Cl2
product | Theophylline-8-butyric acid methylester | COC(CCCC1=NC=2N(C(N(C)C(C2N1)=O)=O)C)=O | C12H16N4O4
